US04310655
Dimethylphenylacetic Acid
Molten alpha-bromoisobutyric acid, 328 g, 2 moles, was added to a 5-L flask equipped with a reflux condenser and large magnetic stirrer. Anhydrous benzene 2000 mL, was added to the flask, followed by fresh anhydrous AlCl3, 900 g, 6.75 moles, in small portions. The solution was then slowly heated to the reflux temperature and at this time the exit of the reflux condenser was connected to a flowing-water HBr trap. The mixture was heated a total of 24 hours without interruption. The reaction mixture was then cooled to ca. 5° C. and treated with 2 L of 50/50 (by volume) conc. HCl/H2O to decompose the catalyst complex. The benzene layer was then separated, washed once with ice-cold H2O (1200 mL) and twice with dilute aqueous sodium hydroxide. The aqueous sodium hydroxide extracts were combined, heated to 80° C. to drive out any physically trapped benzene and decolorized with activated charcoal. After filtration through diatomaceous earth filter aid ("Celite") the aqueous basic filtrate was neutralized slowly with conc. HCl. The precipitated acid was filtered, washed with a minimum amount of ice-cold water, and dried in a vacuum oven at 25°-30° C. The crude yield was 209 g (65%), and the melting point at this stage was 75.5°-77° C. The crude acid was recrystallized from n-heptane (450 mL for ca. 200 g acid). The final yield was 180 g of mp=76°-78°.

reactant | alpha-bromoisobutyric acid | BrC(C(=O)O)(C)C | C4H7BrO2
reactant | AlCl3 | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | HCl H2O | Cl.O
reactant | benzene | 2000 mL | C1=CC=CC=C1 | C6H6
product | Dimethylphenylacetic Acid | CC(C(=O)O)(C1=CC=CC=C1)C | C10H12O2
